US05216161
2,5-Diamino-4,6-dihydroxypyrimidine hydrochloride
5-Acetamido-2-amino-4,6-dihydroxypyrimidine (700 g crude) (ex. guanidinium carbonate, diethyl acetamido malonate and ethanol refluxed 48 hours), concentrated hydrochloric acid (2 liters water), (200 ml), were heated to 70° and kept at 70°-75° for 1 hour, then cooled in an ice bath. The product was filtered, washed with HCl (80 ml conc HCl in water 170 ml), then acetone (1 liter), and air dried at 40° to give the title compound (344.5 g). Found: C 24.53, H 4.33, N 28.9 Cl 17.9; C4H6N4O2 ·HCl·H2O requires C 24.4, H 4.6, N 28.5, Cl 18.0%. NMR C13 84.59, 115.24, 157.22 ppm DMSO MS/FAB M+H 143. Vacuum oven drying at 0.5 mm and 85° C. with argon protection gave 320 g (46% yield).

reactant | 5-Acetamido-2-amino-4,6-dihydroxypyrimidine | 700 g | C(C)(=O)NC=1C(=NC(=NC1O)N)O | C6H8N4O3
reactant | hydrochloric acid | 2 liters | Cl | ClH
product | 2,5-Diamino-4,6-dihydroxypyrimidine hydrochloride | 344.5 g, 46% yield | Cl.NC1=NC(=C(C(=N1)O)N)O | InChI=1S/C4H6N4O2.ClH/c5-1-2(9)7-4(6)8-3(1)10;/h5H2,(H4,6,7,8,9,10);1H
